US09422247B2
C. 4,6-Dimethylpyrimidine-2-ol-1-oxide hydrochloride
0.40 mol (30.6 g) hydroxy urea was dissolved in 600 ml of 1 M HCl and 0.50 mol (50.06 g) acetyl acetone were added dropwise under ice cooling, maintaining the internal temperature at 1-3° C. The solution was thawed to room temperature in an ice bath and stirred over night, then filtered off and evaporated to dryness. The residue was suspended with 400 ml of acetone, the mixture was cooled to −18° C., the solid filtered off and washed with a little ice-cold acetone. After drying, 45.5 g of crude product were obtained. The crude product was recrystallized with 4.0 l ethanol from the boiling heat, cooled to −18° C., filtered off and washed with little ethanol and dried (fraction 1). The mother liquor was concentrated on a rotary evaporator until product started to precipitate again, cool stored and a second fraction isolated. After drying 26.0 g (1. fraction, purity>98%) and 11.0 g (2. fraction, contained 32% NH4Cl as by-product) of the title compound was obtained.

reactant | hydroxy urea | 0.40 mol, 30.6 g | ONC(=O)N | CH4N2O2
reactant | acetyl acetone | 0.50 mol, 50.06 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | HCl | 1 M, 600 ml | Cl | ClH
product | 4,6-Dimethylpyrimidine-2-ol-1-oxide hydrochloride | 45.5 g | Cl.CC=1N=C([N+](=C(C1)C)[O-])O | InChI=1S/C6H8N2O2.ClH/c1-4-3-5(2)8(10)6(9)7-4;/h3H,1-2H3,(H,7,9);1H
